US06060592
2-Methyl-1-(-β-D-ribofuranosyl)pyrimidin-4-one
To a solution of 2-methyl-1-(2',3',5'-tri-O-benzoyl-β-D-ribofuranosyl)-pyrimidin-4-one (13.86 g, 25 mmol) in methanol (150 ml) was added 4.37N sodium methoxide solution in MeOH (2.5 mmol, 0.1 eq.). The solution was stirred overnight at room temperature and then evaporated. The residue was partitioned between water (100 ml) and dichloromethane (2×150 ml). The aqueous layer was neutralized with Dowex 50 H+ -form and evaporated. The orange oily residue was crystallized from ethanol/acetone 3:1 to give the title compound (2.37 g, 39%). 1H-NMR (CDCl3): δ 8.1 (d, 1 H, H6); 6.0 (d, 1 H, H5); 5.65 (m, 2 H, H1', 2'-OH); 5.25, 5.2 (d,t, 2 H, 3'-OH, 5'-OH); 2.45 (s, 3 H, CH3).

reactant | 2-methyl-1-(2',3',5'-tri-O-benzoyl-β-D-ribofuranosyl)-pyrimidin-4-one | 25 mmol, 13.86 g | CC=1N(C=CC(N1)=O)[C@H]1[C@H](OC(C2=CC=CC=C2)=O)[C@H](OC(C2=CC=CC=C2)=O)[C@H](O1)COC(C1=CC=CC=C1)=O | C31H26N2O8
reactant | sodium methoxide | 4.37N | C[O-].[Na+]
solvent | methanol | 150 ml | CO | CH4O
solvent | MeOH | 2.5 mmol, 0.1 eq. | CO | CH4O
product | 2-Methyl-1-(-β-D-ribofuranosyl)pyrimidin-4-one | 2.37 g, 39% | CC=1N(C=CC(N1)=O)[C@H]1[C@H](O)[C@H](O)[C@H](O1)CO | C10H14N2O5
